US05013863
To a mixture of 19 g phosphoric acid (98%) and 19 g pottasium iodide are added at 40° under stirring 4.75 g (33.4 mMol) of 4,4,4-trifluoro-3-methyl-butan-1-ol over a period of 10 minutes. The mixture is then heated at 120° for 16 hours, a cooling poured into ice-water and extracted with diethylether. The etheric extracts are washed with 10% sodium thiosulfate and brine acid dried over sodium sulphate. After filtration, the solvent is removed through a 15 cm Vigreux-column at atmospheric pressure, followed by fractionation giving 4,4,4-trifluoro-3-methyl-1-iodo-butane, b.p. 76-77° at 140 mbar.

reactant | phosphoric acid | 19 g | P(O)(O)(O)=O | H3O4P
reactant | iodide | 19 g | [I-]
reactant | 4,4,4-trifluoro-3-methyl-butan-1-ol | 33.4 mMol, 4.75 g | FC(C(CCO)C)(F)F | C5H9F3O
product | 4,4,4-trifluoro-3-methyl-1-iodo-butane | FC(C(CCI)C)(F)F | C5H8F3I
